US05707989
2- Amino-cyclopropylbenzene
3.5 g of 4-bromo-2-nitro-cyclopropylbenzene are dissolved in 30 ml of ethanol and, after addition of 0.5 g of palladium-on-charcoal (10%), are hydrogenated in a Parr apparatus at room temperature under a hydrogen pressure of 5 bar for 2.5 hours. After cooling, the solvent is distilled off in a rotary evaporator and the residue is rendered alkaline with 1N sodium hydroxide solution and extracted three times with 50 ml of ether each time. The combined organic phases are dried over sodium sulphate, the solvent is distilled off in a rotary evaporator and the residue is purified by column chromatography.

reactant | 4-bromo-2-nitro-cyclopropylbenzene | 3.5 g | BrC1=CC=C(C=C1)C1C(C1)[N+](=O)[O-] | C9H8BrNO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | 2- Amino-cyclopropylbenzene | NC1C(C1)C1=CC=CC=C1 | C9H11N
